US05026707
o-Fluorophenylacetic acid (35.9 g; 0.233 mmol) was stirred in 40 ml of thionyl chloride for 24 hours at room temperature. Volatile material was removed in vacuo to obtain a yellow, mobile liquid. The liquid was distilled in vacuo to obtain 27.45 g (68.5%) of o-fluorophenylacetyl chloride as a colorless liquid, b.p. 85° C. (4 mm Hg).

reactant | o-Fluorophenylacetic acid | 0.233 mmol, 35.9 g | FC1=C(C=CC=C1)CC(=O)O | C8H7FO2
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | o-fluorophenylacetyl chloride | 27.45 g, 68.5% | FC1=C(C=CC=C1)CC(=O)Cl | C8H6ClFO
